US07714010B2
2-[2-(2,4-Dichloro-phenyl)-ethyl]-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one is prepared from 3-(2,4-dichloro-phenyl)-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-propionamide as described in Example 1b using Raney-nickel (71 mg) instead of Pd/C (497 mg).

reactant | 3-(2,4-dichloro-phenyl)-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-propionamide | ClC1=C(C=CC(=C1)Cl)CCC(=O)NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C)=O)(C)C | C20H19Cl2N3O4
catalyst | Raney-nickel | 71 mg | [Ni] | Ni
product | 2-[2-(2,4-Dichloro-phenyl)-ethyl]-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | ClC1=C(C=CC(=C1)Cl)CCC1=NC=2C(=CC=3C(C(N(C3C2)C)=O)(C)C)N1 | C20H19Cl2N3O
